US07598249B2
4-(3-Hydroxy-benzyl)-piperazine-1-carboxylic acid phenylamide (intermediate)
To a solution of piperazine-1-carboxylic acid phenylamide (2.0 g) and 3-hydroxybenzaldehyde (3.0 g) in DCM (200 mL) was added acetic acid (1.1 mL) followed by portion-wise addition of NaB(OAc)3H (6.0 g). The reaction mixture was stirred overnight. A solution of 10% aq. NaOH (30 mL) was added until the pH of the aqueous phase was 11. A solution of 1 N HCl was then added until the pH of the aqueous phase was 6-7. The aqueous phase was extracted with DCM (200 mL). The combined organic layers were dried (MgSO4) and concentrated. Chromatography of the residue gave the title compound as a white solid (2.5 g).

reactant | piperazine-1-carboxylic acid phenylamide | 2.0 g | C1(=CC=CC=C1)NC(=O)N1CCNCC1 | C11H15N3O
reactant | 3-hydroxybenzaldehyde | 3.0 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | NaB(OAc)3H | 6.0 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 30 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 1.1 mL | C(C)(=O)O | C2H4O2
product | 4-(3-Hydroxy-benzyl)-piperazine-1-carboxylic acid phenylamide | 2.5 g | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=CC(=CC=C1)O | C18H21N3O2
